US08134007B2
2-Bromo-1-(2-chloroethoxy)-4-fluorobenzene
To a solution of toluene-4-sulfonic acid 2-chloroethyl ester (2.80 g, 11.93 mmol) in anhydrous N,N-dimethylformamide (10 ml) was added 2-bromo-4-fluorophenol (2.73 g, 14.30 mmol), and potassium carbonate (3.30 g, 23.90 mmol). The resulting solution was then heated at 50° C. with stirring for 6 hours. After cooling to room temperature, the reaction mixture was diluted with sodium hydroxide (1M aqueous solution, 30 ml) and tert-butyldimethyl ether (50 ml) was added. The layers were separated and the organic extract was washed with saturated brine solution (30 ml), prior to being dried over anhydrous MgSO4 (s), filtered and evaporated in vacuo. Purification by column chromatography eluting with ethyl acetate:heptane 1:99 to 10:90 afforded the title compound as a colourless oil (1.50 g, 50%).

reactant | toluene-4-sulfonic acid 2-chloroethyl ester | 11.93 mmol, 2.80 g | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
reactant | 2-bromo-4-fluorophenol | 14.30 mmol, 2.73 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 23.90 mmol, 3.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 1M, 30 ml | [OH-].[Na+]
product | 2-Bromo-1-(2-chloroethoxy)-4-fluorobenzene | 1.50 g, 50% | BrC1=C(C=CC(=C1)F)OCCCl | C8H7BrClFO
